US05302608
4-Chlorobenzoyl chloride (911 mg) was added to a solution of ammonium thiocyanate (460 mg) in acetone (20 ml), and the solution mixture was heated over a water bath for 1 minute and stirred at room temperature for 1 hour. A solution of 2-amino-4-(5,6,7,8-tetrahydro-2-naphthyl)thiazole (1.0 g) in acetone (10 ml) was added to the solution, followed by stirring at room temperature for 16 hours. The reaction mixture was poured into water, and the crystals which separated out were recovered by filtration and washed with water and hexane, successively. Recrystallization from dichloromethane-ethanol produced 1-(4-chlorobenzoyl)-3-[4-(5,6,7,8-tetrahydro-2-naphthyl-)2-thiazolyl]thiourea (Yield of 1.08 g, 58.1%) %) in the form of colorless needles. m.p. 193° to 194° C.

reactant | 4-Chlorobenzoyl chloride | 911 mg | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | ammonium thiocyanate | 460 mg | [S-]C#N.[NH4+]
reactant | 2-amino-4-(5,6,7,8-tetrahydro-2-naphthyl)thiazole | 1.0 g | NC=1SC=C(N1)C1=CC=2CCCCC2C=C1 | C13H14N2S
reactant | water | O | H2O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 1-(4-chlorobenzoyl)-3-[4-(5,6,7,8-tetrahydro-2-naphthyl-)2-thiazolyl]thiourea | Yield of 1.08 g, 58.1% | ClC1=CC=C(C(=O)NC(=S)NC=2SC=C(N2)C2=CC=3CCCCC3C=C2)C=C1 | C21H18ClN3OS2
